US05767116
A mixture of 1,4-benzodioxan-2-ylmethyl toluene-4-sulphonate (1.68 g, prepared in a similar manner to that described in Example 1), 1-[1-(2-chlorophenyl)piperid-4-yl]methylamine (1.8 g) and potassium carbonate (10 g) in acetonitrile (150 ml) was heated under reflux with stirring for 24 hours. Potassium iodide (0.2 g) was added to the reaction mixture and heating under reflux continued for a further 24 hours. The cooled mixture was filtered and the solvent removed from the filtrate in vacuo. The residue was passed through a silica column using a 1:1 mixture of petroleum ether (b.p. 40°-60° C.) and ethyl acetate as eluant. The solvent was removed from the eluate in vacuo and the clear oily residue dissolved in ether. An excess of an etheral solution of hydrogen chloride was added, and the solvent removed in vacuo to give N-(1,4-benzodioxan-2-ylmethyl)-1-[1-(2-chlorophenyl)piperid-4-yl]methylamine hydrochloride (0.37 g), m.p. 275°-278° C. (dec).

reactant | 1,4-benzodioxan-2-ylmethyl toluene-4-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C=CC=C2)C | C16H16O5S
reactant | 1-[1-(2-chlorophenyl)piperid-4-yl]methylamine | 1.8 g | ClC1=C(C=CC=C1)N1CCC(CC1)CN | C12H17ClN2
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | Potassium iodide | 0.2 g | [I-].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-(1,4-benzodioxan-2-ylmethyl)-1-[1-(2-chlorophenyl)piperid-4-yl]methylamine hydrochloride | 0.37 g | Cl.O1C(COC2=C1C=CC=C2)CNCC2CCN(CC2)C2=C(C=CC=C2)Cl | InChI=1S/C21H25ClN2O2.ClH/c22-18-5-1-2-6-19(18)24-11-9-16(10-12-24)13-23-14-17-15-25-20-7-3-4-8-21(20)26-17;/h1-8,16-17,23H,9-15H2;1H
